US09107916B2
C. 4-[tert-butyl(dimethyl)silyl]oxybutanoic acid
To a solution of 4-[tert-butyl(dimethyl)silyl]oxybutanoyloxylithium (8.0 g, 35.71 mmol) in ethyl acetate (10 mL), was carefully added KHSO4 (5%) to adjust pH to about 1. It was then extracted with ethyl acetate three times and organic extracts washed with brine and dried with anhydrous NaSO4. The organic extracts were concentrated to give the title compound (7.4 g, 95%). [M+H] Calc'd for C10H22O3Si, 219. Found, 219.

reactant | 4-[tert-butyl(dimethyl)silyl]oxybutanoyloxylithium | 35.71 mmol, 8.0 g | [Si](C)(C)(C(C)(C)C)OCCCC(=O)O[Li]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-[tert-butyl(dimethyl)silyl]oxybutanoic acid | 7.4 g, 95% | [Si](C)(C)(C(C)(C)C)OCCCC(=O)O | C10H22O3Si
